US09102692B2
Step 2: Synthesis of 2-(1-benzenesulfonyl-1H-indole-2-carbonyl)-3-dimethylamino-acrylonitrile (1083)
N,N-Dimethylformamide dimethylacetal (620 μl) was added at room temperature to a tetrahydrofuran (THF) solution (8.5 ml) of 3-(1-benzenesulfonyl-1H-indol-2-yl)-3-oxo-propionitrile (1.0 g, 3.08 mmol), and stirred for ten minutes. The reaction mixture was then concentrated under reduced pressure to give crude 2-(1-benzenesulfonyl-1H-indole-2-carbonyl)-3-dimethylamino-acrylonitrile as yellow amorphous material. The obtained crude product was used in subsequent reactions without purification.

reactant | N,N-Dimethylformamide dimethylacetal | 620 μl | COC(N(C)C)OC | C5H13NO2
reactant | 3-(1-benzenesulfonyl-1H-indol-2-yl)-3-oxo-propionitrile | 3.08 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(CC#N)=O | C17H12N2O3S
solvent | tetrahydrofuran | 8.5 ml | O1CCCC1 | C4H8O
product | 2-(1-benzenesulfonyl-1H-indole-2-carbonyl)-3-dimethylamino-acrylonitrile | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(=O)C(C#N)=CN(C)C | C20H17N3O3S
